US06110934
5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline
To an ice cold solution of 5-amino-2-methylisoquinolinium iodide (18.8 g, 65 mmol) in methanol (1.5L) and water (60 ml) was added sodium borohydride (17.8 g, 0.47 mol) portionwise over 2h. The mixture was then allowed to stir at room temperature for 18h before concentration in vacuo and partitioning of the residue between water and dichloromethane. The organic layer was dried over sodium sulfate and concentrated in vacuo to afford the title compound (8.87 g).

reactant | 5-amino-2-methylisoquinolinium iodide | 65 mmol, 18.8 g | [I-].NC1=C2C=C[N+](=CC2=CC=C1)C
reactant | sodium borohydride | 0.47 mol, 17.8 g | [BH4-].[Na+]
solvent | methanol | 1.5L | CO | CH4O
solvent | water | 60 ml | O | H2O
product | 5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | 8.87 g | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
